US08486979B2
5-(3,4-dichlorophenyl)-3-(pyridin-3-yl)-1,2,4-oxadiazole
The title compound was prepared according to the procedure of Example 8 using N′-hydroxynicotinimidamide (Aldrich) and 3,4-dichlorobenzoic acid (Aldrich). 1H NMR (300 MHz, CD3OD) δ 7.64 (ddd, J=8.0, 5.1, 0.8 Hz, 1 H), 7.82 (d, J=8.3 Hz, 1 H), 8.14-8.19 (m, 1 H), 8.40 (d, J=2.0 Hz, 1 H), 8.56 (dt, J=7.9, 2.0 Hz, 1 H), 8.75 (dd, J=5.2, 1.6 Hz, 1 H), 9.29 (dd, J=2.2, 1.0 Hz, 1 H) ppm; MS (DCI/NH3) m/z 292 (M+H)+.

reactant | N′-hydroxynicotinimidamide | ON=C(C1=CN=CC=C1)N | C6H7N3O
reactant | 3,4-dichlorobenzoic acid | ClC=1C=C(C(=O)O)C=CC1Cl | C7H4Cl2O2
reactant | NH3 | N | H3N
product | 5-(3,4-dichlorophenyl)-3-(pyridin-3-yl)-1,2,4-oxadiazole | ClC=1C=C(C=CC1Cl)C1=NC(=NO1)C=1C=NC=CC1 | C13H7Cl2N3O
